US07071216B2
A solution of the methyl5-[3-amino-4-(methylamino)phenoxy]pyridine-3-carboxylate (1 eq) in methanol (8 ml) was treated with 4-bromophenylisothiocyanate (1 eq) and stirred at 60° C.–65° C. for 2 hours. The reaction mixture was cooled down to room temperature and methyl iodide (1 eq) was added and stirred overnight at 60° C. The reaction was cooled down to room temperature, evaporated, taken up in ethyl acetate and washed with water and brine, dried, evaporated under reduced pressure. Column chromatography yielded methyl5-{2-[(4-bromophenyl)amino]-1-methylbenzimidazol-5-yloxy}pyridine-3-carboxylate. MS: MH+=452

reactant | methyl5-[3-amino-4-(methylamino)phenoxy]pyridine-3-carboxylate | 1 eq | COC(=O)C=1C=NC=C(C1)OC1=CC(=C(C=C1)NC)N | C14H15N3O3
reactant | 4-bromophenylisothiocyanate | 1 eq | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | methyl iodide | 1 eq | CI | CH3I
solvent | methanol | 8 ml | CO | CH4O
product | methyl5-{2-[(4-bromophenyl)amino]-1-methylbenzimidazol-5-yloxy}pyridine-3-carboxylate | COC(=O)C=1C=NC=C(C1)OC1=CC2=C(N(C(=N2)NC2=CC=C(C=C2)Br)C)C=C1 | C21H17BrN4O3
